US07129232B2
To a solution of N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]formamide (3.825 g) in N,N-dimethylformamide (66 ml) was added sodium hydride (264 mg, 60% oil suspension) under a nitrogen atmosphere at 0° C. under stirring. The mixture was stirred at 0° C. for 15 minutes. To the mixture were added tert-butyl N-(3-bromopropyl)carbamate (2.62 g) in N,N-dimethylformamide (10 ml) and sodium iodide (1.65 g). The mixture was warmed to room temperature and stirred for 2 hours. 10% Aqueous potassium hydrogen sulfate solution (5 ml) was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was chromatographed on silica gel eluting with methylene chloride/ethyl acetate (4:1) to give tert-butyl 3-{N-formyl-N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}propylcarbamate (2.714 g). The NMR spectrum of this compound indicates the existence of its rotamer.

reactant | N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]formamide | 3.825 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC=O | C24H22N4O
reactant | sodium hydride | 264 mg | [H-].[Na+]
reactant | tert-butyl N-(3-bromopropyl)carbamate | 2.62 g | BrCCCNC(OC(C)(C)C)=O | C8H16BrNO2
reactant | potassium hydrogen sulfate | 5 ml | S(=O)(=O)(O)[O-].[K+]
solvent | N,N-dimethylformamide | 66 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | sodium iodide | 1.65 g | [I-].[Na+]
product | tert-butyl 3-{N-formyl-N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}propylcarbamate | 2.714 g | C(=O)N(C=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)CCCNC(OC(C)(C)C)=O | C32H37N5O3
